US08349851B2
A mixture of ethyl 4-hydroxy-8-methylquinazoline-2-carboxylate (330 mg, 1.39 mmol), POCl3 (20 mL), and DMF (3 drops) was stirred at 80° C. for 48 h. The mixture was concentrated under reduced pressure and the solid residue was partitioned between DCM (100 mL) and cold H2O (100 mL). The separated aqueous phase was extracted with DCM (2×100 mL) and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography eluting with EtOAc/hexanes to afford ethyl 4-chloro-8-methylquinazoline-2-carboxylate as a solid (320 mg, 90%). 1H NMR (300 MHz, DMSO-d6) δ1.39 (t, J=7.1 Hz, 3H), 2.76 (s, 3H), 4.45 (q, J=7.1 Hz, 2H), 7.90 (m, 1H), 8.1 (m, 1H), 8.2 (m, 1H).

reactant | ethyl 4-hydroxy-8-methylquinazoline-2-carboxylate | 1.39 mmol, 330 mg | OC1=NC(=NC2=C(C=CC=C12)C)C(=O)OCC | C12H12N2O3
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | ethyl 4-chloro-8-methylquinazoline-2-carboxylate | 320 mg, 90% | ClC1=NC(=NC2=C(C=CC=C12)C)C(=O)OCC | C12H11ClN2O2
